US08937083B2
To a solution of N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-(2-hydroxyethyl)-2-methyl-3-(methylthio)propanamide (0.045 g, 0.127 mmol) in dichloromethane (1.27 ml) was added N,N-dimethylpyridin-4-amine (0.023 g, 0.190 mmol) and triethylamine (0.019 g, 0.190 mmol) followed by acetyl chloride (0.015 g, 0.190 mmol). The reaction was stirred at room temperature overnight. Water was added and the mixture was extracted with dichloromethane. The combined organic phases were concentrated and chromatographed (0-100% ethyl acetate/hexanes) to give 2-(N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-methyl-3-(methylthio)propanamido)ethyl acetate as a yellow oil (0.015 g, 0.034 mmol, 26.8%): IR (thin film) 1739, 1669 cm−1; 1H NMR (400 MHz, CDCl3) δ 8.97 (d, J=2.3 Hz, 1H), 8.64 (dd, J=4.7, 1.4 Hz, 1H), 8.15 (s, 1H), 8.04 (ddd, J=8.3, 2.7, 1.4 Hz, 1H), 7.47 (ddd, J=8.3, 4.8, 0.7 Hz, 1H), 4.50-3.40 (m, 4H), 2.84 (dd, J=12.7, 8.9 Hz, 1H), 2.78-2.63 (m, 1H), 2.46 (dd, J=12.7, 5.4 Hz, 1H), 2.03 (s, 3H), 2.01 (s, 3H), 1.16 (d, J=6.6 Hz, 3H); ESIMS m/z 398 ([M+H]+).

reactant | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-(2-hydroxyethyl)-2-methyl-3-(methylthio)propanamide | 0.127 mmol, 0.045 g | ClC1=NN(C=C1N(C(C(CSC)C)=O)CCO)C=1C=NC=CC1 | C15H19ClN4O2S
reactant | triethylamine | 0.190 mmol, 0.019 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.190 mmol, 0.015 g | C(C)(=O)Cl | C2H3ClO
reactant | Water | O | H2O
solvent | dichloromethane | 1.27 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylpyridin-4-amine | 0.190 mmol, 0.023 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-methyl-3-(methylthio)propanamido)ethyl acetate | 0.034 mmol, 0.015 g, 26.8% | C(C)(=O)OCCN(C(C(CSC)C)=O)C=1C(=NN(C1)C=1C=NC=CC1)Cl | C17H21ClN4O3S
